US03948949
10 g. of 2-(9-oxo-2-xanthenyl)-propanol is refluxed with 1 g. of red phosphorus in 50 ml. of hydriodic acid (b.p. 127°) for 4 hours. After the excess hydrogen iodide has been distilled off, 2-(2-xanthenyl)-propanol is obtained, m.p. 86°-89°.

reactant | 2-(9-oxo-2-xanthenyl)-propanol | O=C1C2=CC=CC=C2OC=2C=CC(=CC12)C(CO)C | C16H14O3
reactant | hydriodic acid | I | HI
product | 2-(2-xanthenyl)-propanol | C1=C(C=CC=2OC3=CC=CC=C3CC12)C(CO)C | C16H16O2
